2184-04-06 07:04:00 Physician Resident Progress Note
Chief Complaint: lung mass
   24 Hour Events:
 OR SENT - At [**2184-4-5**] 07:50 PM
   - Taken for rigid bronch for biopsy with IP on [**Hospital Ward Name **]
   - Heparin stopped as the PE is likely secondary to stasis from
   compression of mass and LENIS negative
   - restarted heparin post procedure per IP recs
   - Oncology consult; they recommend HIV testing, uric acid level (added
   on), MRI brain, and CT abd/pelvis for staging
   - Path slides are in transit between [**Hospital1 609**] and [**Location (un) 755**]. [**Location (un) 755**] will
   courier them to us as soon as they get them. Will be sent to the attn
   of [**Doctor First Name **]
   - onc requesting rad onc consult in AM
   - stayed on West; on 6L NC post bronch and having throat pain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2184-4-6**] 01:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-4-6**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98
   HR: 110 (97 - 124) bpm
   BP: 118/69(79) {105/62(73) - 130/81(87)} mmHg
   RR: 18 (11 - 24) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  2,355 mL
                                                                    245 mL
   PO:
             150 mL
   TF:
   IVF:
                                                                  2,355 mL
                                                                     95 mL
   Blood products:
   Total out:
                                                                  2,275 mL
                                                                    775 mL
   Urine:
                                                                  2,275 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     80 mL
                                                                   -530 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Bronchial: , Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   367 K/uL
   11.0 g/dL
   94 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.8 mEq/L
   11 mg/dL
   97 mEq/L
   135 mEq/L
   33.5 %
   12.7 K/uL
        [image002.jpg]
                             [**2184-4-5**]  03:40 AM
                             [**2184-4-6**]  05:38 AM
   WBC
   8.2
   12.7
   Hct
   28.7
   33.5
   Plt
   301
   367
   Cr
   0.8
   0.8
   Glucose
   101
   94
   Other labs: PT / PTT / INR:13.6/36.9/1.2, ALT / AST:28/14, Alk Phos / T
   Bili:106/0.3, Differential-Neuts:75.0 %, Lymph:15.0 %, Mono:8.3 %,
   Eos:1.6 %, Albumin:3.3 g/dL, LDH:152 IU/L, Ca++:9.0 mg/dL, Mg++:1.7
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), LUNG
 PULMONARY EMBOLISM (PE), ACUTE
   A/P per last night transfer note: not much change overnight except some
   weaning of nasal canula O2.
   Mr. [**Known firstname 453**] [**Known lastname 14231**] is a very nice 36 year-old gentleman with history
   of smoking and hemoptysis who was recently diagnosed with a mediastinal
   mass who comes with hemoptysis and a pulmonary embolus for
   anticoagulation.
   .
   #. Pulmonary embolus - Small provoked PE in the left upper lobe
   segmental artery. It is unclear how much the mass effect compressing
   the L pulmonary artery and the pulmonary veins is contributing to low
   flow and stasis, versus hypercoagulable state secondary to malignancy.
   Now s/p  bronch and per IP ok to restart heparin.
   - restarted heparin post-bronch. Will transition to subcutaneous
   heparin only.
   .
   #. Hemoptysis - Patient with pulmonary embolus (small) and a very large
   mediastinal mass. He has been having hemoptysis for ~1 month and now is
   s/p CT-guided biopsy. The most likely source in the mass given its
   proximity with the airway. NO clear evidence of fistula are seen. He is
   breathing comfortably. Now he may be at higher risk of bleeding given
   heparin gtt.  Stable over the course of his [**Hospital Unit Name 1**] stay while on
   heparin.  Now post bronch and stable
   - No evidence of bleeding
   - If major bleeding consider embolization/intubation
   - 2 Large IVs
   - T&S with 2 units crossmatched
   .
   #. Mediastinal mass - Patient has a mediastinal mass of ~14 cm X ~5 cm.
   He is a smoker with 22 pack-year. By location differential diagnosis
   includes lymphoma, thymoma, angiomatous tumor. He has history of reflux
   so esophageal cancer is in the differential, but not likely. Germ cell
   tumors are very common in this age group. Primary lung cancer is very
   unlikely.
   - TSH
   - Serum calcium, phosphate, and parathyroid hormone
   - Alpha fetoprotein
   - beta human chorionic gonadotropin
   - Consider Fractionated 24-hour urinary metanephrines and
   catecholamines
   - f/u biopsy results
   - Follow up final path report from [**Location (un) 755**]
   - Onc consult once pathology results back
   - call out to oncology service in AM
   .
   #. Smoking - Patient stopped smoking 3 weeks ago.
   .
   #. GERD - Continue tums for now.
   .
   #. FEN - ADAT.
   .
   #. Access - PIVs.
   .
   #. PPx -
   -DVT ppx with heparin subcutaneously TID
   -Bowel regimen colace/senna
   -Pain management with Tylenol, oxycodone PRN, Dilaudid PRN
   .
   #. Code - Full code.
   .
   #. Dispo
 call out to oncology service
   .
   #. Communication - Aunt [**Name (NI) **] [**Name (NI) 14233**] [**Telephone/Fax (1) 14234**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-4-4**] 10:56 PM
   18 Gauge - [**2184-4-5**] 12:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-04-07 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2184-4-6**]:
   No overnight events; Patient called out to oncology floor and is
   awaiting bed availability
Oncology Consult note:
- Please consult radiation oncology
- Please obtain non-urgent CT abdomen/pelvis and MRI brain to complete staging w
orkup
- Once patient is stable to leave the ICU, please call patient out to [**First Name9 (NamePattern2) **] [**Last Name (un) **]
ce, preferably 7-[**Hospital Ward Name **], since we will likely initiate therapy in-house during
 this admission.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-4-6**] 01:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-4-7**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 101 (94 - 115) bpm
   BP: 130/76(87) {112/64(76) - 131/77(90)} mmHg
   RR: 10 (10 - 26) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
                  Total In:
                                                                  1,534 mL
                                                                    200 mL
   PO:
                                                                  1,350 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    184 mL
   Blood products:
   Total out:
                                                                  1,775 mL
                                                                    300 mL
   Urine:
                                                                  1,775 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -241 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Oropharynx clear
   Cardiovascular: S1, S2 regular rhythm, normal rate
   Respiratory / Chest:
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent. Mild clubbing noted.
   Neurologic:
   Labs / Radiology
   431 K/uL
   12.4 g/dL
   114 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.0 mEq/L
   11 mg/dL
   96 mEq/L
   139 mEq/L
   38.6 %
   11.7 K/uL
        [image002.jpg]
                             [**2184-4-5**]  03:40 AM
                             [**2184-4-6**]  05:38 AM
                             [**2184-4-7**]  05:02 AM
   WBC
   8.2
   12.7
   11.7
   Hct
   28.7
   33.5
   38.6
   Plt
   [**Telephone/Fax (3) 14292**]
   Cr
   0.8
   0.8
   0.9
   Glucose
   101
   94
   114
   Other labs: PT / PTT / INR:13.3/29.1/1.1, Ca++:9.6 mg/dL, Mg++:1.7
   mg/dL, PO4:3.2 mg/dL
   STUDIES:
   -pleural fluid cytology ([**2184-4-5**]): pending
   - no CXR this AM
   Assessment and Plan
   Mr. [**Known firstname 453**] [**Known lastname 14231**] is a 36 year-old gentleman with history of smoking
   and hemoptysis found to have mediastinal mass and a pulmonary embolus
   .
36 year old man with very large left lung/mediastinal mass
status-post a second biopsy.  The first biopsy wasn't fully
diagnostic (and we're awaiting transfer of the path slides to
[**Hospital1 19**] for review) but did stain positive for TTF-1; this in
conjunction with his normal hCG, aFP, and LDH makes the whole
picture very concerning for advanced lung cancer.  I explained
this to the patient, but also explained that we need to get a
definitive tissue diagnosis prior to starting any sort of
therapy.  If this does end up being non-small/squamous cell lung
carcinoma (which is highest on our differential), then he would
likely benefit from chemoradiation to treat this large primary
   mass (even if he does have distant metastases).
   #. Pulmonary embolus - Small provoked PE in the left upper lobe
   segmental artery. It is unclear how much the mass effect compressing
   the L pulmonary artery and the pulmonary veins is contributing to low
   flow and stasis, versus hypercoagulable state secondary to malignancy.
   Now s/p  bronch and per IP ok to restart heparin.
   -          restarted heparin post-bronch then transitioned to
   subcutaneous heparin only
   -          hold off on further IV heparin or Lovenox for now until it
   is clear no need for procedure and hemoptysis has stopped
   .
   #. Hemoptysis - Patient with pulmonary embolus (small) and a very large
   mediastinal mass. He has been having hemoptysis for ~1 month and now is
   s/p CT-guided biopsy. The most likely source in the mass given its
   proximity with the airway. NO clear evidence of fistula are seen. He is
   breathing comfortably. Now he may be at higher risk of bleeding given
   heparin gtt.  Stable over the course of his [**Hospital Unit Name 1**] stay while on
   heparin.  Now post bronch and stable. Minimal current sx (mostly old
   blood in early AM)
   - If major bleeding consider embolization/intubation
   - 2 Large IVs (consider removing one line as patient reports irritation
   and bleeding [**Doctor Last Name 533**])
   - T&S with 2 units cross-matched
   .
   #. Mediastinal mass - Patient has a mediastinal mass of ~14 cm X ~5 cm.
   He is a smoker with 22 pack-year. By location differential diagnosis
   includes lymphoma, thymoma, angiomatous tumor. He has history of reflux
   so esophageal cancer is in the differential, but not likely. Germ cell
   tumors are very common in this age group. Primary lung cancer is very
   unlikely.  HCG, AFP within normal limits.
   - Serum calcium, phosphate, and parathyroid hormone
   - Consider Fractionated 24-hour urinary metanephrines and
   catecholamines
   - f/u biopsy results
   - Follow up final path report from [**Location (un) 755**]
   - F/U oncology recs
   - F/U rad onc recs (or sign out to onc team if patient is transferred).
   Could also be structural/mechanical related to mass.
   - Call out to oncology service when bed available
   .
   # Tachycardia. Possibly secondary to pain/anxiety (decreases with
   sleep).
   - Trial of low-dose benzo (0.5 mg PO Ativan) to evaluate effect
   .
   #. Smoking - Patient stopped smoking 3 weeks ago.
   .
   #. GERD - Continue tums for now.
   .
   #. FEN - ADAT.
   .
   #. Access - PIVs.
   .
   #. PPx -
   -DVT ppx with heparin subcutaneously TID
   -Bowel regimen colace/senna  (standing)
   -Pain management with Tylenol, oxycodone PRN, Dilaudid PRN
   .
   #. Code - Full code.
   .
   #. Dispo
 call out to oncology service
   .
   #. Communication - Aunt [**Name (NI) **] [**Name (NI) 14233**] [**Telephone/Fax (1) 14234**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-4-4**] 10:56 PM
   18 Gauge - [**2184-4-5**] 12:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: